US09193693B2
Step 2. 3-(4-Fluorophenyl)-2-(4-(pyridin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-(4-fluorophenyl)-2-(4-(pyridin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylate (157.4 mg, 0.36 mmol, 1.00 equiv) in methanol (15 mL). This was followed by the addition of a solution of sodium hydroxide (71.1 mg, 1.78 mmol, 5.00 equiv) in water (2 mL) dropwise with stiffing. The resulting solution was stirred overnight at 50° C. in an oil bath. The pH value of the solution was adjusted to 3-4 with 1N hydrochloric acid. The resulting mixture was concentrated under vacuum. The resulting mixture was washed with methanol. This resulted in 36 mg (23%) of 3-(4-fluorophenyl)-2-(4-(pyridin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(4-fluorophenyl)-2-(4-(pyridin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylate | 0.36 mmol, 157.4 mg, 1.00 equiv | FC1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)N1CCN(CC1)C1=NC=CC=C1 | C25H22FN5O2
reactant | sodium hydroxide | 1.78 mmol, 71.1 mg, 5.00 equiv | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 3-(4-Fluorophenyl)-2-(4-(pyridin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylic acid | FC1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)N1CCN(CC1)C1=NC=CC=C1 | C24H20FN5O2
